US06255333B1
5-Chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (1 g) in acetonitrile (15 ml) at 0° C. was added dropwise nitrosyl chloride (2.7 ml of a ˜1M solution in dichloromethane). The reaction mixture was heated under reflux for 10 minutes. The reaction mixture was then evaporated and the residue was purified by column chromatography on silica gel eluted with hexane: toluene (2:1) and then toluene. Combination and evaporation of suitable fractions gave the title compound as a pale orange solid, m.p. 115.7-116.3° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 1 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | nitrosyl chloride | N(=O)Cl | ClNO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | ClC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H2Cl3F3IN3
